US04282242
2-(4-Chlorophenoxy-3-dimethylaminoacrylaldehyde (11.3 g., 50 mmoles) was dissolved in 200 ml. of ethanol, mixed with a solution of ethyl glycinate (14 g., 100 mmoles) in 90 ml. of 1 N sodium hydroxide and refluxed for 15 hours. Ethanol was evaporated in vacuo, the aqueous residue diluted with 150 ml. of water and product extracted into 200 ml. of ethyl acetate. The ethyl acetate was back-washed with water and concentrated to an oil. Trituration of the oil with 100 ml. of ether gave crystalline 2-(4-chlorophenoxy)-3-carbethoxymethylaminoacrylaldehyde in two crops (7.3 g., Rf 0.55 on silica gel this layer chromatography with ethyl acetate-1/hexane-1/5% acetic acid as eluant).

reactant | 4-Chlorophenoxy-3-dimethylaminoacrylaldehyde | 50 mmoles, 11.3 g | ClC1=CC=C(OC(C=O)=CN(C)C)C=C1 | C11H12ClNO2
reactant | ethyl glycinate | 100 mmoles, 14 g | NCC(=O)OCC | C4H9NO2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-(4-chlorophenoxy)-3-carbethoxymethylaminoacrylaldehyde | ClC1=CC=C(OC(C=O)=CNCC(=O)OCC)C=C1 | C13H14ClNO4
